US04338346
Trifluoracetic anhydride (149 g) was placed in a 500 ml flask and chilled to -78° C. L-aspartic acid (37.8 g) was then added in small portions over 5 minutes and the resulting slurry stirred for 10 minutes while chilled to -78° C. After removal of the cooling bath, the mixture was stirred for an additional 2 hours. After the vigorous reaction subsided, the solution was refluxed for one hour, allowed to cool, and poured into 300 ml hexane, yielding a white solid. After washing successively with 200 ml hexane and 400 ml ether, the material was dried in vacuo, yielding 57.2 g N-trifluoroacetyl-L-aspartic acid anhydride (96% yield).

reactant | Trifluoracetic anhydride | 149 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | L-aspartic acid | 37.8 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
solvent | hexane | 300 ml | CCCCCC | C6H14
product | N-trifluoroacetyl-L-aspartic acid anhydride | 57.2 g, 96% yield | FC(C(=O)N[C@H]1CC(=O)OC1=O)(F)F | C6H4F3NO4
